US04198409
1-(2',6'-dimethylphenyl)-4-(2,2,2-trifluoroethylamino)-1,2-dihydro-1,3,5-triazin-2-one
To a suspension of 130 g (40.0 mmol) of 1-(2,6-dimethylphenylcarbamoyl)-3-(2,2,2-trifluoroethyl) guanidine hydrochloride in CH3CN (50 ml) were added 95 g (80.0 mmol) of DMF-DMA and the mixture heated at reflux for two hours. The solvent was removed under vacuum, and the residue partitioned between CHCl3 and H2O. The layers were separated and the aqueous layer was extracted with CHCl3 (1×100 ml). The extracts were dried (MgSO4) and concentrated to give a white solid which was crystallized from absolute EtOH to give after heating under vacuum at 100° C. for one hour; 9.5 g (80%) of 1-(2,6-dimethylphenyl)-4-(2,2,2-trifluoroethylamino)dihydro-1,3,5-triazin-2-one; melting point 212°-3° C.

reactant | 1-(2,6-dimethylphenylcarbamoyl)-3-(2,2,2-trifluoroethyl) guanidine hydrochloride | 40.0 mmol, 130 g | Cl.CC1=C(C(=CC=C1)C)NC(=O)NC(=N)NCC(F)(F)F
reactant | DMF-DMA | 80.0 mmol, 95 g | CN(C)C(OC)OC | C5H13NO2
reactant | 1-(2,6-dimethylphenyl)-4-(2,2,2-trifluoroethylamino)dihydro-1,3,5-triazin-2-one | 9.5 g | CC1=C(C(=CC=C1)C)N1C(NC(N=C1)NCC(F)(F)F)=O | C13H15F3N4O
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 1-(2',6'-dimethylphenyl)-4-(2,2,2-trifluoroethylamino)-1,2-dihydro-1,3,5-triazin-2-one | CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NCC(F)(F)F)=O | C13H13F3N4O
